US06451834B1
A mixture of 2-(4-methylbenzoyl)indan-1,3-dione (1.32 g, prepared in a similar manner to the starting material in Example 6) and hydrazine hydrate (15 ml) was boiled under reflux for 24 hours. The mixture was cooled, poured into ice-water and the solid was collected by filtration, washed with absolute ethanol and dried to give 3-(p-tolyl)-1,4-dihydroindeno[1,2-c]pyrazole, m.p. 267-269° C.

reactant | 2-(4-methylbenzoyl)indan-1,3-dione | CC1=CC=C(C(=O)C2C(C3=CC=CC=C3C2=O)=O)C=C1 | C17H12O3
reactant | hydrazine hydrate | 15 ml | O.NN
product | 3-(p-tolyl)-1,4-dihydroindeno[1,2-c]pyrazole | C1(=CC=C(C=C1)C=1C2=C(NN1)C1=CC=CC=C1C2)C | C17H14N2
